US06566362B2
A suspension of 58.3 g of ethyl 6,7-difluoro-4-oxoquinoline-3-carboxylate in 490 g of phosphorus oxychloride was heated at 95° C. for 5 hours with stirring. After evaporation to dryness under reduced pressure (5.2 kPa), the viscous residue obtained was supplemented with 500 cm3 of ice-cold water and decomposed by slow addition of a saturated aqueous potassium carbonate solution up to pH 8. The insoluble material formed was extracted twice with 400 cm3 of dichloromethane. The organic extracts obtained were dried over sodium sulphate in the presence of animal charcoal, filtered, and concentrated under reduced pressure (5.2 kPa). The residue obtained was recrystallized from 800 cm3 of hexane. 53 g of ethyl 4-chloro-6,7-difluoroquinoline-3-carboxylate was obtained in the form of white crystals, which melted at 111° C.

reactant | ethyl 6,7-difluoro-4-oxoquinoline-3-carboxylate | 58.3 g | FC=1C=C2C(C(C=NC2=CC1F)C(=O)OCC)=O | C12H9F2NO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | phosphorus oxychloride | 490 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | ethyl 4-chloro-6,7-difluoroquinoline-3-carboxylate | 53 g | ClC1=C(C=NC2=CC(=C(C=C12)F)F)C(=O)OCC | C12H8ClF2NO2
